US04476307
3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone
Under nitrogen, N-methyl-2-pyrrolidone (3 ml) was cooled in an ice-water bath. Phosphorus oxychloride (0.91 ml, 0.01 mole) was added dropwise. After stirring 15 minutes, the bath was removed and 2(1H,3H)-indolone (oxindole, 1.3 g, 0.01 mole) in 3 ml. additional N-methyl-2-pyrrolidone (3 ml) was added dropwise. The temperature rose to 40° C. The reaction mixture was then heated at 80° for 16 hours, cooled and partitioned between ethyl acetate and water. The aqueous layer was washed with fresh ethyl acetate, basified to pH 9 with 6N NaOH and clarified by filtration. The filtrate was extracted with ethyl acetate. The extract was evaporated to dryness and the resulting title product triturated with ethyl acetate, 0.24 g, m.p. 268°-271° C. (dec). See Ind. J. Chem. 12:940-942 (1974).

reactant | Phosphorus oxychloride | 0.01 mole, 0.91 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2(1H,3H)-indolone | 0.01 mole, 1.3 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | N-methyl-2-pyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
reactant | N-methyl-2-pyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 3-(1-methyl-2-pyrrolidinylidene)-2(1H,3H)-indolone | CN1C(CCC1)=C1C(NC2=CC=CC=C12)=O | C13H14N2O
